US08022062B2
4-Aminomethyl-N-(2,2,2-trifluoro-ethyl)-benzamide
Use the General Procedure 6-1, using 2,2,2-trifluoroethylamine (197 mg, 2 mmol) and 4-(tert-butoxycabonylamino-methyl)-benzoic acid, to give the title compound as a clear oil (440 mg, 94%). MS (ES+) m/z: 233 (M+H)+.

reactant | 2,2,2-trifluoroethylamine | 2 mmol, 197 mg | FC(CN)(F)F | C2H4F3N
reactant | 4-(tert-butoxycabonylamino-methyl)-benzoic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
product | 4-Aminomethyl-N-(2,2,2-trifluoro-ethyl)-benzamide | 440 mg, 94% | NCC1=CC=C(C(=O)NCC(F)(F)F)C=C1 | C10H11F3N2O
